US07737166B2
Under nitrogen atmosphere, 4-amino-6-bromo-5-hydroxy-2-methylbiphenyl-3-carbonitrile (I-42) (150 mg, 0.495 mmol) was dissolved in ethyl acetate (6 ml), diisopropylethylamine (431 μl, 2.48 mmol) was added, followed by cooling in an ice-water bath. Cyclopropanecarbonyl chloride (112 μl, 1.24 mmol) was dropwise added to it, followed by stirring overnight with restoring to room temperature. The reaction liquid was diluted with ethyl acetate, washed with saturated brine, then dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1) to obtain 2-bromo-5-cyano-4-(cyclopropanecarbonylamino)-6-methylbiphenyl-3-yl cyclopropanecarboxylate (87 mg) and a mixture of (2-bromo-5-cyano-3-hydroxy-6-methylbiphenyl-4-yl)cyclopropanecarboxamide and 4-amino-2-bromo-5-cyano-6-methylbiphenyl-4-yl cyclopropanecarboxylate (110 mg). Subsequently, 2-bromo-5-cyano-4-(cyclopropanecarbonylamino)-6-methylbiphenyl-3-yl cyclopropanecarboxylate was dissolved in ethanol (30 ml), aqueous 0.1 N sodium hydroxide solution (5.94 ml) was added, followed by stirring overnight at room temperature. Ethanol was evaporated away under reduced pressure, then the residue was dissolved in ethyl acetate, followed by successively washing with 1 N hydrochloric acid, saturated brine, dried on anhydrous magnesium sulfate, concentrated under reduced pressure to obtain (2-bromo-5-cyano-3-hydroxy-6-methylbiphenyl-4-yl)cyclopropanecarboxamide (56 mg) as a colorless oil.

reactant | 4-amino-6-bromo-5-hydroxy-2-methylbiphenyl-3-carbonitrile | 0.495 mmol, 150 mg | NC1=C(C(=C(C(=C1O)Br)C1=CC=CC=C1)C)C#N | C14H11BrN2O
reactant | diisopropylethylamine | 2.48 mmol, 431 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Cyclopropanecarbonyl chloride | 1.24 mmol, 112 μl | C1(CC1)C(=O)Cl | C4H5ClO
reactant | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | 2-bromo-5-cyano-4-(cyclopropanecarbonylamino)-6-methylbiphenyl-3-yl cyclopropanecarboxylate | 87 mg | C1(CC1)C(=O)OC=1C(=C(C(=C(C1NC(=O)C1CC1)C#N)C)C1=CC=CC=C1)Br | C22H19BrN2O3
